US07396847B2
N-{[(5S)-3-(4-{2-[5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]pyrid-5-yl}phenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide
N-({(5S)-2-Oxo-3-[4-(trimethylstannyl)phenyl]-1,3-oxazolidin-5-yl}methyl)acetamide (300 mg, 0.76 mM), [3-(5-bromopyridin-2-yl)-4,5-dihydroisoxazol-5-yl]methanol (194 mg, 0.76 mM), tris(dibenzylideneacetone)dipalladium (0)-chloroform adduct (78 mg, 0.076 mM) and tri-2-furylphosphine (35 mg, 0.152 mM) were placed in a flask. The solids were degassed and placed under nitrogen. Anhydrous dioxane (5 ml) was added and the suspension was heated at 90° C. for 15 hours. The reaction mixture was cooled and the solvent was evaporated. The residue was chromatographed on silica gel eluting with 5% methanol in dichloromethane to give the title compound (83 mg).

reactant | N-({(5S)-2-Oxo-3-[4-(trimethylstannyl)phenyl]-1,3-oxazolidin-5-yl}methyl)acetamide | 0.76 mM, 300 mg | O=C1O[C@H](CN1C1=CC=C(C=C1)[Sn](C)(C)C)CNC(C)=O
reactant | [3-(5-bromopyridin-2-yl)-4,5-dihydroisoxazol-5-yl]methanol | 0.76 mM, 194 mg | BrC=1C=CC(=NC1)C1=NOC(C1)CO | C9H9BrN2O2
reactant | tri-2-furylphosphine | 0.152 mM, 35 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
catalyst | tris(dibenzylideneacetone)dipalladium (0)-chloroform adduct | 0.076 mM, 78 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | N-{[(5S)-3-(4-{2-[5-(Hydroxymethyl)-4,5-dihydroisoxazol-3-yl]pyrid-5-yl}phenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | 83 mg | OCC1CC(=NO1)C1=NC=C(C=C1)C1=CC=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C21H22N4O5
